US07906652B2
Step 1: 3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzonitrile
A solution of 16.19 g (34.42 mmol) of 3-[1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]-1-(diphenylmethyl)azetidine, 3.23 g (27.53 mmol) of zinc cyanide, 1.10 g (1.2 mmol) of tris(dibenzylideneacetone)dipalladium, and 1.53 g (2.75 mmol) of DPPF in 99 mL of DMF and 1 mL of water was degassed for 1 h at rt. Then it was stirred at 140° C. After 17 h, it was concentrated to remove solvents. Then the mixture was poured into 300 mL of ether/ethyl acetate (1:1) and 100 mL aq NaHCO3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 1.22(d, 3H, J=21 Hz), 1.30(d, 6H, J=21 Hz), 2.30 (t, 1H, J=7.8 Hz), 2.86-2.96 (m, 2H), 3.08-3.18 (m, 2H), 3.65 (t, 1H, J=7 Hz), 4.25 (s, 1H), 7.13-7.43 (m, 13H); Mass Spectrum: m/e=417 (M+1).

reactant | 3-[1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]-1-(diphenylmethyl)azetidine | 34.42 mmol, 16.19 g | BrC=1C=C(C=C(C1)F)C(C(C)(C)F)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26BrF2N
reactant | DMF | 99 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
catalyst | zinc cyanide | 27.53 mmol, 3.23 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tris(dibenzylideneacetone)dipalladium | 1.2 mmol, 1.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 2.75 mmol, 1.53 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 3-{1-[1-(diphenylmethyl)azetidin-3-yl]-2-fluoro-2-methylpropyl}-5-fluorobenzonitrile | C1(=CC=CC=C1)C(N1CC(C1)C(C(C)(C)F)C=1C=C(C#N)C=C(C1)F)C1=CC=CC=C1 | C27H26F2N2
